Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:12].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.61438824639
[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],1.10742297773
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-1.5863239112600005
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11],-1.10776467226
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][H:8]>>[H:1][C:2]#[C:3][C:4][O:5][H:6].[O:7][H:8],5.16506524607
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[H:12].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:13][C:14]([H:15])([H:16])[H:17],4.242168618319997
[O:1]=[C:2]([H:3])[C:11]([C@:5]([O:4])([H:6])[C:7]([H:8])([H:9])[H:10])([H:12])[H:13]>>[O:1][C@@:2]1([H:3])[O:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],0.16065277817
[C:10]([H:11])([H:12])[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7](=[O:8])[H:9]>>[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7](=[O:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.59726740988
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:12][C:13]([H:14])([H:15])[H:16],4.12836774881
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C@@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[C@@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3],3.91707057003
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1]/[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11](/[H:12])[C:14]([H:15])([H:16])[H:17],1.76283299558
[H:1][C:2]([H:3])([H:4])[C:5]([C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])=[O:14]>>[H:1][C:2]([H:3])([H:4])[C:5]1=[C:6]([C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[O:14]1,0.19965466441
[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-4.37934787391
[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]#[C:5][H:6].[H:1][C:2](=[C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[H:7],6.1149794254400005
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6]1\[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([O:7][C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],0.8758866873700001
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14],-4.63060676876
[O:1]=[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1],8.1678328353
[C:6][H:7].[O:1][O:2][C:3](=[C:4][H:5])[C:8]([H:9])([H:10])[H:11]>>[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-7.222299364149999
[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][C@@:3]([H:4])([C:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],4.3473751062
[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-5.13637504325
[C:1].[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11],-5.28619285737
[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-6.4181396647
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:12]([H:13])([H:14])[H:15],1.6821040498100002
[C:1]#[C:2][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:3]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-2.26343746425
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.64443543427
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7][O:8][H:9]>>[C:5]#[C:6][C:7][O:8][H:9].[H:1][C:2]#[C:3][H:4],1.6864246103799998
